US04284634
A mixture of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (3.00 g), hydroxylamine hydrochloride (0.5547 g), sodium acetate (1.1382 g) in acetic acid (10 ml) was stirred for 30 minutes at room temperature. To this mixture was added acetic anhydride (1.4 ml) and the resultant mixture was stirred for an hour at room temperature and refluxed for an hour. The acetic acid was distilled off under reduced pressure, and to the residue was added water. The resultant mixture was neutrallized with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate twice. The extract was washed with water and an aqueous solution saturated with sodium chloride and dried. The solvent was distilled off and thus obtained viscous oily substance (3.19 g) was subjected to column chromatography on silica gel with an eluent [a mixture of 5 parts of benzene and one part of ethyl acetate by volume] and a yellow oil (1.74 g) was obtained from the fraction which contained the designated product. The oil turned into crystals (1.56 g). These crystals were recrystallized from benzene to give yellow powder (1.5 g) of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate.1/3benzene, m.p. 89° to 91° C. Thus obtained yellow powder was further recrystallized from a mixture of diethyl ether and n-hexane to give crystals of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate, m.p. 115° to 116° C.

reactant | 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 3.00 g | CC=1NC(=C(C(C1C(=O)OCCOCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C21H24N2O8
reactant | hydroxylamine hydrochloride | 0.5547 g | Cl.NO
reactant | sodium acetate | 1.1382 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate | 1.5 g | CC=1NC(=C(C(C1C(=O)OCCOCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C#N | C21H23N3O7
